US05972951
1-Ethyl-1,2,3,6-tetrahydropyridine-4-methanol
The title compound was prepared from 4-pyridylcarbinol and iodoethane following a similar procedure to that described for the 1-methyl analogue in J. Med. Chem., 1988, 31, 545(92%).

reactant | 4-pyridylcarbinol | N1=CC=C(C=C1)CO | C6H7NO
reactant | iodoethane | ICC | C2H5I
product | 1-Ethyl-1,2,3,6-tetrahydropyridine-4-methanol | C(C)N1CCC(=CC1)CO | C8H15NO
